US04002647
1-bromo-3,7,9-trimethyl-2,6-decadiene and 6-hydroxy-2,3-dihydrobenzofuran are reacted to form 6-[(3,7,9-trimethyl-2,6-decadienyl)-oxy]-2,3-dihydrobenzofuran of boiling point (bulb-tube) 112° C./0.03 mmHg; nD21 = 1.5271.

reactant | 1-bromo-3,7,9-trimethyl-2,6-decadiene | BrCC=C(CCC=C(CC(C)C)C)C | C13H23Br
reactant | 6-hydroxy-2,3-dihydrobenzofuran | OC1=CC2=C(CCO2)C=C1 | C8H8O2
product | 6-[(3,7,9-trimethyl-2,6-decadienyl)-oxy]-2,3-dihydrobenzofuran | CC(=CCOC1=CC2=C(CCO2)C=C1)CCC=C(CC(C)C)C | C21H30O2
